US08426604B2
2-[(3R)-3-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-pyrrolidin-1-yl]-acetamide
To a solution of 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-(methyl-pyrrolidin-3-yl-amino)-thiazol-4-one (90 mg, 0.17 mmol) in DMF (2 mL) was added potassium carbonate (72 mg, 0.52 mmol) followed by 2-Bromo-acetamide (28 mg, 0.2 mmol). The reaction mixture was stirred at room temperature for 4 hours and partitioned between water and ethyl acetate. The ethyl acetate layer was washed with brine, dried over Na2SO4, filtered, and the solvent evaporated in vacuo to yield a crude solid. The crude solid was purified via flash chromatography (5% methanol in dichloromethane) to yield the title compound (80 mg, 80%).

reactant | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-(methyl-pyrrolidin-3-yl-amino)-thiazol-4-one | 0.17 mmol, 90 mg | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C2CNCC2)C)=O)C=C1)C(F)(F)F | C24H21ClF3N5OS
reactant | potassium carbonate | 0.52 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Bromo-acetamide | 0.2 mmol, 28 mg | BrCC(=O)N | C2H4BrNO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[(3R)-3-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-pyrrolidin-1-yl]-acetamide | 80 mg, 80% | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N([C@H]2CN(CC2)CC(=O)N)C)=O)C=C1)C(F)(F)F | C26H24ClF3N6O2S
